US06225310B1
a) N-[5-Chloro-3-(isopropylthiocarbamoyl)sulfamoylthiophen-2-yl]acetamide
Potassium tert-butoxide (135 mg, 1.2 mmol) was added to a solution of N-(5-chloro-3-sulfamoylthiophen-2-yl)-acetamide(255 mg, 1.0 mmol) in dry N,N-dimethylformamide (5 ml) with stirring on an ice bath. After 5 min, isopropyl isothiocyanate (0.128 ml, 1.2 mmol) was added dropwise and the solution was stirred for 30 min at 0° C. and then at room temperature for 3 h. A further amount of potassium tert-butoxide (135 mg, 1.2 mmol) was added to the solution and stirring was continued at room temperature for 1 h. The solvent was evaporated at <50° C., and the residue was taken up in 10 ml of water and the aqueous solution was adjusted to pH 2 with 4 M hydrochloric acid. The resulting precipitate was isolated by filtration, washed with water and dried to give 274 mg (77%) of crude title compound; 1H-NMR (DMSO-d6): δ1.12 (d, 6H, 2×CH3), 2.28 (s, 3H, COCH3), 4.21 (m, 1H, NCH), 7.15 (s, 1H, H-4), 8.34 (br d, 1H, NH), 10.26 (s, 1H, NH).

reactant | Potassium tert-butoxide | 1.2 mmol, 135 mg | CC(C)([O-])C.[K+]
reactant | N-(5-chloro-3-sulfamoylthiophen-2-yl)-acetamide | 1.0 mmol, 255 mg | ClC1=CC(=C(S1)NC(C)=O)S(N)(=O)=O | C6H7ClN2O3S2
reactant | isopropyl isothiocyanate | 1.2 mmol, 0.128 ml | C(C)(C)N=C=S | C4H7NS
reactant | potassium tert-butoxide | 1.2 mmol, 135 mg | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[5-Chloro-3-(isopropylthiocarbamoyl)sulfamoylthiophen-2-yl]acetamide | 274 mg, 77% | ClC1=CC(=C(S1)NC(C)=O)S(NC(NC(C)C)=S)(=O)=O | C10H14ClN3O3S3
